datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[O:2])[C:3]([O:4][O:5])([H:9])[H:10])([H:6])([H:7])[H:8].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])=[O:14])([H:15])([H:16])[H:17]>>[C:0]([C:1](=[O:2])[C:3]([O:4][O:5][H:15])([H:9])[H:10])([H:6])([H:7])[H:8].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])=[O:14])([H:16])[H:17],20.92
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:12]([C:11]([H:15])([H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:5],12.552
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:23])[H:24])[H:22])=[C:17]([C:18]([H:26])([H:27])[H:28])[H:25])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:17]([C:14]([C:13](=[C:12]([H:19])[H:20])[H:21])[C:15](=[C:16]([H:23])[H:24])[H:22])([C:18]([H:26])([H:27])[H:28])[H:25])[H:5],22.0078
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([H:7])[H:8]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][C:6]([H:7])[H:8],30.0202
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20])[H:19])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])([H:5])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20],65.9817
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[O:13][O:14][H:15]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:11])[H:12])[H:7])([H:5])[H:6].[H:10][O:13][O:14][H:15],56.6814848
[C:0]([C:1]([C:2]([C:3]1([H:19])[C:4]([H:20])([H:21])[C:5]([H:22])([H:23])[C:6]2=[C:7]([H:24])[C:8]([H:25])=[C:9]([H:26])[C:10]([H:27])[C:11]12[H:28])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([C:3]1([H:19])[C:4]([H:20])([H:21])[C:5]([H:22])([H:23])[c:6]2[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]21)([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:28],108.102
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8].[C:15]([C:16]([O:17][H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:18])([H:6])([H:7])[H:8].[C:15]([C:16]([O:17][H:23])([H:21])[H:22])([H:19])[H:20],81.00224
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([C:10]([C:11](=[S:12])[H:17])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10]([C:9]([H:13])([H:14])[H:15])([C:11](=[S:12])[H:17])[H:16],41.4216
[N:1]([H:2])[H:3].[N:4]([N:5][H:6])([H:7])[H:8]>>[N-:4]=[N+:5]([H:6])[H:8].[N:1]([H:2])([H:3])[H:7],0.0
[C:0]([N:1]([H:5])[H:6])([H:2])([H:3])[H:4].[N:7]([H:8])[H:9]>>[C:0]([N:1]([H:5])[H:6])([H:3])[H:4].[H:2][N:7]([H:8])[H:9],22.9702
[S:0]=[C:1]([C:2]([S:3][H:6])[H:5])[H:4].[S:7]([C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])([H:16])[H:17])[H:15]>>[S:0]=[C:1]([C:2]([S:3][H:6])([H:5])[H:16])[H:4].[S:7]([C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])[H:17])[H:15],60.668
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([H:6])([H:7])[H:8].[O:15][O:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])[O:15][O:16])([H:6])([H:7])[H:8],0.0
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]=[C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7]=[C:6]([H:15])[H:16])([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])[H:17])[H:3],53.6389
[C:0]([C:1]1([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])[H:7]>>[C:0]([C:1]1=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:8])[H:12])([H:6])[H:7],69.395824
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])[C:22]([H:23])([H:24])[H:25])([H:10])([H:11])[H:12],27.991
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([H:11])[H:12])([O:6][O:7][H:16])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[O:6][O:7][H:16],66.1072
